US05153318
a) 2-Amino-6-isopropoxy-9H-purine
Sodium (Aldrich, lot #9621CL, 4.1 g, 176.9 mmol) was reacted with 150 mL of isopropanol, 2-Amino-6-chloropurine (Sigma, lot #69F4064, 6.0 g, 35.4 mmol) was added and the reaction stirred at 50° C. for 24 hours. The solution was cooled and brought to pH 7 with 1N HCl. The solvents were evaporated to one-half volume. The precipitate was filtered, washed with water and dried to give 5.9 g (30.5 mmol, 87%); mp=204°-206° C.

reactant | Sodium | 176.9 mmol, 4.1 g | [Na] | Na
reactant | 2-Amino-6-chloropurine | 35.4 mmol, 6.0 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | HCl | 1N | Cl | ClH
reactant | isopropanol | 150 mL | C(C)(C)O | C3H8O
product | 2-Amino-6-isopropoxy-9H-purine | NC1=NC(=C2N=CNC2=N1)OC(C)C | C8H11N5O
